US06465472B1
1-Isopropyl-6,7-methylenedioxy-4-(3-quinolyl)-3,4-dihydro-quinazolin-2(1H)-one
This compound was synthesized from N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea (308 mg) and 3-quinolinecarboxaldehyde (243 mg) by the procedure described in example 10 in 14% yield. mp: 202-205° C. 1H NMR (CDCl3): 8.89 (d, J=2.0, 1H), 8.11 (d, J=7.6, 1H), 8.05 (s, 1H), 7.80 (d, J=7.6, 1H), 7.74 (t, J=7.6, 1H), 7.58 (t, J=7.6, 1H), 6.72 (s, 1H), 6.41 (s, 1H), 5.94 (s, 1H), 5.92 (s, 1H), 5.52 (d, J=1.9, 1H), 5.25 (s, 1H), 4.42 (m, 1H), 1.57 (d, J=7.0, 3H), 1.56 (d, J=7.0, 3H).

reactant | N-isopropyl-N-[3,4-(methylenedioxy)-phenyl]urea | 308 mg | C(C)(C)N(C(=O)N)C1=CC2=C(C=C1)OCO2 | C11H14N2O3
reactant | 3-quinolinecarboxaldehyde | 243 mg | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
product | 1-Isopropyl-6,7-methylenedioxy-4-(3-quinolyl)-3,4-dihydro-quinazolin-2(1H)-one | 14% yield | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCO3)C=3C=NC1=CC=CC=C1C3)=O | C21H19N3O3
